US07655666B2
To a solution of N-(6-aminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (100 mg, 0.28 mmol) in conc. CH3CO2H (8 mL) was added 2,5-dimethoxytetrahydrofurane (41.3 μL, 0.31 mmol) and the reaction mixture was stirred for 20 min at reflux temperature. Subsequently, the solvent was evaporated and the crude brown residue was recrystallized from EtOAc/cyclohexane to yield N-(2,4-dioxo-6-pyrrol-1-ylmethyl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (108 mg, 0.27 mmol, 95%) as a light-brown solid. 1H-NMR (DMSO-d6, 400 MHz) 3.12 ppm (s, 3H, SO2—CH3; LC-MS rt=3.757 mn; MS: m/z 402.9 [M+H]+ Column: SunFireC18, 4.6*50 mn, 3.5 um; Positive MS Water/Acetonitrile 95:5 to 5:95 in 5 min, Flow: 1.5 mL/min

reactant | N-(6-aminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 0.28 mmol, 100 mg | NCC=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C11H11F3N4O4S
reactant | 2,5-dimethoxytetrahydrofurane | 0.31 mmol, 41.3 μL | COC1OC(CC1)OC | C6H12O3
solvent | CH3CO2H | 8 mL | CC(=O)O | C2H4O2
product | N-(2,4-dioxo-6-pyrrol-1-ylmethyl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 0.27 mmol, 108 mg, 95% | O=C1NC2=CC(=C(C=C2C(N1NS(=O)(=O)C)=O)CN1C=CC=C1)C(F)(F)F | C15H13F3N4O4S
